
* main switching fet
XSWMAIN VG1 SW SSOURCE EPC2010C
XSWSYNC VG2 SSW 0 EPC2010C
*DOUT 0 SSW D
*.model D D
* gate drive resistors
RGMAIN VG1 VHSDRV 1
RGSYNC VG2 VLSDRV 1

*R from main fet source to ground to measure current
RMAIN SSOURCE 0 0

* primary inductance dot is on the first node
L1 VIN SW {LPRIM}
* secondary inductance
L2 SSW VOUT {LSEC}
* mutuall coupling
K1 L1 L2 1.0
C1 VOUT 0 {COUT}
R1 VOUT 0 {RLOAD}
V1 N001 0 PULSE(0 5 1u 10n 10n {TON} 2u)

V2 VIN 0 {VIN}

XU1 DVCC 0 N001 VHSDRV 0 VLSDRV PWMinterlock

V3 DVCC 0 5

.PARAM RLOAD =10
.PARAM COUT=10e-6
.PARAM LPRIM=10e-6
.PARAM LSEC = 10e-6
.PARAM VIN=80
.PARAM TON= 1e-6


* include miscellaneous library for pwm circuit
.include misc.lib
* include modified egan library
.include EPCGaN.lib

* transient simulation to 200usec, start saving data at 100usec
.tran 1E-10 1m 800u 1
.measure tran POWER_SYNCFET AVG {V(SSW)*I(L2)} FROM=800e-6
.measure tran POWER_MAINFET AVG {V(SW)*I(RMAIN)} FROM=800e-6
*.measure tran POWER_FETS AVG {V(SW)*I(RSYNC)+(V(VDMAIN)-V(SW))*I(RMAIN)} FROM = 800e-6
*.measure tran VDSMFET MAX {V(VDMAIN)-V(SW)}
*.measure tran VDSSFET MAX {V(SW)}
*.measure tran IDMFET MAX {ABS(I(RMAIN))}
*.measure tran IDSFET MAX {ABS(I(RSYNC))}
* print result to csv
.print tran format=csv I(RMAIN) I(L2) I(R1)
.end
