* 2 switch forward, synchronouos secondary low side referenced

* primary switching fet
XQ1 Q1G VIN Q1S EPC2010C
XQ2 Q2G SWA Q2S EPC2010C
XQ3 Q3G VIN Q3S EPC2010C
XQ4 Q4G SWB Q4S EPC2010C

* secondary switching fets
*XQ5 PHA2 SWC Q5S EPC2010C
*XQ6 PHA1 SWD Q6S EPC2010C
DQ5 0 SWC 1N4148
DQ6 0 SWD 1N4148

* gate drive resistors
* RGMAIN Q2G VHSDRV 1
* RGSYNC Q4G VLSDRV 1


*E2 Q3G SW VHSDRV 0 1
*R from main fet source to ground to measure current
RQ1S Q1S SWA 0
RQ2S Q2S 0 0
RQ3S Q3S SWB 0
RQ4S Q4S 0 0
RQ5S Q5S 0 0
RQ6S Q6S 0 0
* primary inductance dot is on the first node
L1 L11 SWB {LPRIM}
* series inductance to commutate current and facilitate ZVS transition
LLK SWA L11 {LPS}
* secondary inductance
L2 SWC SWD {LSEC}
* mutuall coupling
K1 L1 L2 0.99
* output inductor
L3 SWC OUTPUT {LOUT}
L4 SWD OUTPUT {LOUT}
C1 OUTPUT 0 {COUT}
R1 OUTPUT 0 {RLOAD}
VPHASE1 PHA1 0 PULSE(0 5 0 10n 10n {TON} 2u)
VPHASE2 PHA2 0 PULSE(0 5 0.25u 10n 10n {TON} 2u)

V2 VIN 0 {VIN}
*V2 VIN 0 PULSE(0 {VIN} 1u 10n)
XU1 DVCC 0 PHA1 Q1G Q1S Q2G PWMinterlock
XU2 DVCC 0 PHA2 Q3G Q3S Q4G PWMinterlock

V3 DVCC 0 5

.PARAM RLOAD =2
.PARAM COUT=33e-6
.PARAM LPRIM=100e-6
.PARAM LPS=10e-6
.PARAM LSEC = 100e-6
.PARAM LOUT = 10e-6
.PARAM VIN=80
.PARAM TON= 1e-6


* include miscellaneous library for pwm circuit
.include misc.lib
* include modified egan library
.include EPCGaN.lib
.include diodes.lib

* transient simulation to 200usec, start saving data at 100usec
.tran 1E-10 1m 800u 1 NOOP
.measure tran POWER_Q1 AVG {(V(VIN)-V(Q1S))*I(RQ1S)} FROM = 800e-6
.measure tran POWER_Q2 AVG {V(SWA)*I(RQ2S)} FROM=800e-6
.measure tran POWER_Q3 AVG {(V(VIN)-V(Q3S))*I(RQ3S)} FROM=800e-6
.measure tran POWER_Q4 AVG {V(SWB)*I(RQ4S)} FROM=800e-6
*.measure tran POWER_Q5 AVG {V(SWC)*I(RQ5S)} FROM=800e-6
*.measure tran POWER_Q6 AVG {V(SWD)*I(RQ6S)} FROM=800e-6

* print result to csv
.print tran format=csv I(V2) V(SWA) V(SWB)
.end
