* 2 switch forward, synchronouos secondary low side referenced

* primary switching fet
XQ1 PHA1 Q1D Q1S EPC2010C
XQ2 PHA2 Q2D Q2S EPC2010C

* secondary switching fets
XQ3 PHA1 Q3D Q3S EPC2010C
XQ4 PHA2 Q4D Q4S EPC2010C
DQ3 Q3S Q3D D
DQ4 Q4S Q4D D
.model D D
* gate drive resistors
* RGMAIN Q2G VHSDRV 1
* RGSYNC Q4G VLSDRV 1

*R from main fet source to ground to measure current
RQ1S Q1S 0 0
RQ2S Q2S 0 0
RQ3S Q3S 0 0
RQ4S Q4S 0 0

* primary windings dot is on the first node
L1 VIN Q1D {LPRIM}
L2 Q2D VIN {LPRIM}
* secondary windings
L3 L31 Q3D {LSEC}
L4 Q4D L31 {LSEC}
* mutuall coupling
K1 L1 L2 L3 L4 1
* output inductor
L5 L31 OUTPUT {LOUT}
C1 OUTPUT 0 {COUT}
R1 OUTPUT 0 {RLOAD}

V1 PHA1 0 PULSE(0 5 10u 10n 10n {TON} 4u)
V2 PHA2 0 PULSE(0 5 12u 10n 10n {TON} 4u)

VINPUT VIN 0 {VIN}

V3 DVCC 0 5

.PARAM RLOAD =10
.PARAM COUT=33e-6
.PARAM LPRIM=100e-6
.PARAM LSEC = 100e-6
.PARAM LOUT = 10e-6
.PARAM VIN=80
.PARAM TON= 500e-9

* include miscellaneous library for pwm circuit
.include misc.lib
* include modified egan library
.include EPCGaN.lib

* transient simulation to 200usec, start saving data at 100usec
.tran 1E-10 1m 800u 1
.measure tran POWER_Q4 AVG {V(Q4D)*IR(RQ4S)} FROM=900e-6
.measure tran POWER_Q3 AVG {V(Q3D)*IR(RQ3S)} FROM=900e-6
.measure tran POWER_Q1 AVG {V(Q1D)*IR(RQ1S)} FROM =900e-6
.measure tran POWER_Q2 AVG {V(Q2D)*IR(RQ2S)} FROM =900e-6
.measure tran IOUT AVG {I(R1)} FROM = 900e-6
.measure tran IQ4 AVG {I(RQ4S)} FROM = 900e-6
.measure tran IQ3 AVG {I(RQ3S)} FROM = 900e-6
.measure tran IQ1 AVG {I(RQ1S)} FROM =900e-6
*.measure tran POWER_FETS AVG {V(Q4D)*I(RQ4S)+V(Q3D)*I(RQ3S)+(V(Q1D)-V(Q1S))*I(RQ1D)+(V(Q2D)-V(Q2S))*I(RQ2S)}
.measure tran VD3 MAX {V(Q3D)}
.measure tran VD4 MAX {V(Q4D)}
*.measure tran IDMFET MAX {ABS(I(RMAIN))}
*.measure tran IDSFET MAX {ABS(I(RSYNC))}
* print result to csv
.print tran format=csv I(RQ3S) I(RQ4S) I(RQ1S) I(RQ2S) I(L5)
.end
